US04748239
(D) 7-Chloro-1,3,4,5-tetrahydro-3-hydroxy-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H1-benzazepin-2-one
Oxygen was bubbled through a solution of 7-chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one (7.0 g, 19.46 mmole) in 100 ml of dry tetrahydrofuran at 0° C. while a 0.67M solution of potassium hexamethyldisilazide in toluene (87.64 ml, 58.76 mmole) was added dropwise over 15 minutes. The reaction was continued for 1 hour with the continued bubbling of oxygen at 0° C. The reaction was quenched with 75 ml of a 5% solution of potassium bisulfate, followed by the addition of solid sodium sulfite and 10 ml of methanol. The reaction was stirred for 30 minutes and extracted twice with ethyl acetate. The combined organic layers were washed with 1N hydrochloric acid, saturated sodium bicarbonate, and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was recrystallized from isopropyl alcohol to yield 4.5 g of the title compound.

reactant | Oxygen | O=O | O2
reactant | 7-chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 19.46 mmole, 7.0 g | ClC=1C=CC2=C(CC(C(C(N2)=O)C(=O)OC)C2=CC=C(C=C2)OC)C1 | C19H18ClNO4
reactant | potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | toluene | 58.76 mmole, 87.64 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 7-Chloro-1,3,4,5-tetrahydro-3-hydroxy-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H1-benzazepin-2-one | 4.5 g | ClC=1C=CC2=C(CC(C(C(N2)=O)(C(=O)OC)O)C2=CC=C(C=C2)OC)C1 | C19H18ClNO5
